US04443462
The thus obtained 4-(5-methoxy-1-naphthalenyloxy)-1-(vinyloxycarbonyl)piperidine is stirred for 2 hours with 2 N HCl in methanol to yield 4-(5-methoxy-1-naphthalenyloxy)piperidine hydrochloride.

reactant | 4-(5-methoxy-1-naphthalenyloxy)-1-(vinyloxycarbonyl)piperidine | COC1=C2C=CC=C(C2=CC=C1)OC1CCN(CC1)C(=O)OC=C | C19H21NO4
reactant | HCl | 2 N | Cl | ClH
solvent | methanol | CO | CH4O
product | 4-(5-methoxy-1-naphthalenyloxy)piperidine hydrochloride | Cl.COC1=C2C=CC=C(C2=CC=C1)OC1CCNCC1 | InChI=1S/C16H19NO2.ClH/c1-18-15-6-2-5-14-13(15)4-3-7-16(14)19-12-8-10-17-11-9-12;/h2-7,12,17H,8-11H2,1H3;1H
